US08629271B2
a) tert-Butyl 4-(benzo[d]thiazole-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (1.45 g) was added to a solution of tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride (WuXi PharmaTech) (0.8 g), 1,3-benzothiazol-2-carboxylic acid (0.588 g) and triethylamine (1.51 mL) in DMF (15 mL) and the resulting mixture stirred for 16 h. The volume of DMF was reduced in vacuo and the reaction mixture was partitioned between water (30 mL) and ethyl acetate (30 mL). The organic layer was washed with water (30 mL) and brine (30 mL), dried over magnesium sulphate, filtered and evaporated in vacuo. Purification was by silica gel chromatography eluting with 0-10% methanol in dichloromethane to give the subtitled compound as a yellow oil. Yield 0.83 g.

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.45 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | 0.8 g | Cl.O1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | 1,3-benzothiazol-2-carboxylic acid | 0.588 g | S1C(=NC2=C1C=CC=C2)C(=O)O | C8H5NO2S
reactant | triethylamine | 1.51 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(benzo[d]thiazole-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | S1C(=NC2=C1C=CC=C2)C(=O)N2CCOC1(C2)CCN(CC1)C(=O)OC(C)(C)C | C21H27N3O4S
